US07288537B2
A solution of 3-oxo-pentanenitrile (1.582 g, 16.49 mmol), ethylene glycol (1.026 ml, 84.59 mmol) and a catalytic amount of p-Toluene Sulphonic acid (8 mg) in Toluene (10 ml) is refluxed at 150° C. for 2 days using Dean-Stark apparatus. The reaction mixture is diluted with ethyl acetate and washed with saturated sodium bicarbonate solution. The organic phase is dried over MgSO4, filtered, and the solvent evaporated to yield (2-ethyl-[1,3]dioxolan-2-yl)-acetonitrile. 1H NMR (400 MHz, CDCl3) d 4.15(2H,m), 4.05 (2H, m), 2.65 (2H, s), 1.80 (2H, q), 0.95 (3H, t)

reactant | 3-oxo-pentanenitrile | 16.49 mmol, 1.582 g | O=C(CC#N)CC | C5H7NO
reactant | ethylene glycol | 84.59 mmol, 1.026 ml | C(CO)O | C2H6O2
reactant | p-Toluene Sulphonic acid | 8 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | Toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2-ethyl-[1,3]dioxolan-2-yl)-acetonitrile | C(C)C1(OCCO1)CC#N | C7H11NO2
